US04327093
A mixture of benzhydryl 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylate-1-oxide (syn isomer) (1.25 g) in a mixture of dry acetone (150 ml) and tetrahydrofuran (50 ml) was stirred under ice-water cooling and thereto were added sodium iodide (620 mg) and trifluoroacetic anhydride (0.59 ml) followed by stirring for 4 hours at the same temperature. The reaction mixture was evaporated under reduced pressure and to the residue were added ethyl acetate (60 ml) and water (20 ml). The ethyl acetate layer was separated therefrom, washed with 5% aqueous solution of sodium thiosulfate (20 ml×3), and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, treated with activated charcoal and then evaporated under reduced pressure. The residue was washed with diethyl ether and dried to give benzhydryl 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylate.ditrifluoroacetate (syn isomer) (0.9 g).

reactant | benzhydryl 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylate-1-oxide | 1.25 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)COC(=O)N2CCN(CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=NSC(=N1)N | C32H34N8O8S2
reactant | acetone | 150 ml | CC(=O)C | C3H6O
reactant | sodium iodide | 620 mg | [I-].[Na+]
reactant | trifluoroacetic anhydride | 0.59 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylate | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(=O)N2CCN(CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=NSC(=N1)N | C32H34N8O7S2
